US05610154
(a) 1-(Octahydro-isoindol-2-yl)-4-bromo-2-phenyl-butan-1-one
4-Bromo-2-phenylbutanoic acid (4.86 g, 0.02 mol) and thionyl chloride (2.2 mL, 0.03 mol) were refluxed in dichloromethane (100 mL) under nitrogen for 3 hours. The solution was evaporated and flushed with benzene three times. The residue was dissolved in diethyl ether (50 mL) and cooled in an ice bath. Octahydroisoindole (2.5 g, 0.02 mol) and diisopropylethylamine (3.5 mL, 0.02 mol) dissolved in diethyl ether (50 mL) were added and the reaction was stirred for 60 hours at room temperature. TLC (Uniplate/EtOAc) showed essentially complete reaction. The solution was washed with water, sat. NaHCO3, and dried (Na2SO4). Evaporation of solvent left crude product.

reactant | 4-Bromo-2-phenylbutanoic acid | 0.02 mol, 4.86 g | BrCCC(C(=O)O)C1=CC=CC=C1 | C10H11BrO2
reactant | thionyl chloride | 0.03 mol, 2.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Octahydroisoindole | 0.02 mol, 2.5 g | C1NCC2CCCCC12 | C8H15N
reactant | diisopropylethylamine | 0.02 mol, 3.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(Octahydro-isoindol-2-yl)-4-bromo-2-phenyl-butan-1-one | C1N(CC2CCCCC12)C(C(CCBr)C1=CC=CC=C1)=O | C18H24BrNO
